US06365312B1
N-(5-carboxypentyl)-2,3,3-trimethylindolinium bromide was prepared by the process set forth in Example IA with 2,3,3-trimethylindolenine and 6-bromohexanoic acid to produce 2.43 grams (71.2 percent yield) of yellow crystals. 1H and 13C NMR spectra indicated the following:

reactant | 2,3,3-trimethylindolenine | CC1=NC2=CC=CC=C2C1(C)C | C11H13N
reactant | 6-bromohexanoic acid | BrCCCCCC(=O)O | C6H11BrO2
product | N-(5-carboxypentyl)-2,3,3-trimethylindolinium bromide | [Br-].C(=O)(O)CCCCC[NH+]1C(C(C2=CC=CC=C12)(C)C)C | InChI=1S/C17H25NO2.BrH/c1-13-17(2,3)14-9-6-7-10-15(14)18(13)12-8-4-5-11-16(19)20;/h6-7,9-10,13H,4-5,8,11-12H2,1-3H3,(H,19,20);1H
